US04618627
In 1.5 ml of methanol was dissolved 150 mg of 1-(3,4-dihydroxyphenyl)-5-decanone and 20 mg of sodium borohydride was added to the solution under ice-cooling followed by stirring for 30 minutes. Then, the solvent was distilled off from the reaction mixture and after adding 10 ml of water to the residue thus formed, the product was extracted with ether. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off to provide white crystals of 1-(3,4-dihydroxyphenyl)-5-decanol, which was collected by filtration with the addition of n-hexane. Yield 117 mg.

reactant | 1-(3,4-dihydroxyphenyl)-5-decanone | 150 mg | OC=1C=C(C=CC1O)CCCCC(CCCCC)=O | C16H24O3
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 1-(3,4-dihydroxyphenyl)-5-decanol | OC=1C=C(C=CC1O)CCCCC(CCCCC)O | C16H26O3
